US04764202
10 g (0.032 mol) of 5-amino-1-(2,6-dichloro-3-fluoro-4-trifluoromethylphenyl)-pyrazole are introduced in portions into a boiling solution of 2.3 ml (0.034 mol) of 67% strength nitric acid and 0.1 g of urea in 30 ml of water. The suspension is allowed to cool, and the precipitate is filtered off and dried in vacuo at room temperature. The dry precipitate is introduced into 40 ml of 98% strength sulphuric acid at -5° C., and the mixture is stirred for 12 hours at 0°-5° C. Thereafter, the reaction mixture is introduced into 350 ml of water, boiled up for a short time and allowed to cool to room temperature and the precipitate is filtered off. The precipitate is washed neutral with water and dried in vacuo at 40°-50° C. 7.0 g (61% of theory) of 5-amino-1-(2,6-dichloro-3-fluoro-4-trifluoromethylphenyl)-4-nitropyrazole of melting point 156° C. are obtained.

reactant | 5-amino-1-(2,6-dichloro-3-fluoro-4-trifluoromethylphenyl)-pyrazole | 0.032 mol, 10 g | NC1=CC=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)F)Cl | C10H5Cl2F4N3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | urea | 0.1 g | NC(=O)N | CH4N2O
solvent | water | 30 ml | O | H2O
product | 5-amino-1-(2,6-dichloro-3-fluoro-4-trifluoromethylphenyl)-4-nitropyrazole | 7.0 g, 61% | NC1=C(C=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)F)Cl)[N+](=O)[O-] | C10H4Cl2F4N4O2
